US04639457
In a manner similar to that described in Example II, 1.19 grams (0.0055 mole) of m-chloroperbenzoic acid is added to a solution of 1.29 grams (0.005 mole) of 9-cyano-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]pyridin-11-one in 20 milliliters of chloroform and the resulting mixture stirred at ambient temperature for several days with an addition of an about 0.5 gram portion of m-chloroperbenzoic acid after the first 24 hours. At the end of this period the mixture is washed, dried and evaporated to obtain a 9-cyano-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]-pyridin-11-one N-oxide intermediate as residue.

reactant | m-chloroperbenzoic acid | 0.0055 mole, 1.19 grams | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 9-cyano-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 0.005 mole, 1.29 grams | C(#N)C1=CC2=C(CCC=3C(=NC=CC3)C2=O)C=C1 | C15H10N2O
solvent | chloroform | 20 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 9-cyano-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]-pyridin-11-one N-oxide | C(#N)C1=CC2=C(CCC=3C(=[N+](C=CC3)[O-])C2=O)C=C1 | C15H10N2O2
